US08471027B2
A 2 L three necked round bottom flask equipped with a mechanical stirrer, a nitrogen bubbler and a thermometer was charged with 7-chloro-3-(4-methoxycarbonyl-benzyl)-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester (34 g, 73.6 mmol) methanol (600 mL) and 1,4-dioxane (300 mL). The resulting mixture was treated with lithium hydroxide (3.52 g, 146 mmol). The reaction was stirred at 25° C. over the weekend. At this time, the reaction was warmed to 35° C. and was stirred at 35° C. overnight. The reaction was then treated with additional lithium hydroxide (3.5 g, 1.46 mmol) and water (10 mL) and continued to stir at 35° C. overnight. At this time, additional 1,4-dioxane (300 mL) was added to the reaction. The reaction was stirred at 35° C. overnight. The reaction was then warmed to 40° C. where it stirred for 8 h and then was stirred at 35° C. overnight. At this time, the reaction was cooled to 25° C., treated with concentrated hydrochloric acid (25 mL) and methyl acetate (500 mL) and concentrated in vacuo. The resulting solids were collected by filtration, washed with methanol and dried in vacuo to afford 3-(4-carboxy-benzyl)-7-chloro-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester (27.5 g). An additional amount of 3-(4-carboxy-benzyl)-7-chloro-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester (3 g, total yield: 92.5%) was obtained through concentration of the filtrate and collection of the resulting solids. This material was used without further purification.

reactant | 7-chloro-3-(4-methoxycarbonyl-benzyl)-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester | 73.6 mmol, 600 mL, 34 g | COC(=O)C=1N(C2=CC(=CC=C2C(C1CC1=CC=C(C=C1)C(=O)OC)=O)Cl)C1=CC=CC=C1 | C26H20ClNO5
reactant | lithium hydroxide | 146 mmol, 3.52 g | [OH-].[Li+]
reactant | lithium hydroxide | 1.46 mmol, 3.5 g | [OH-].[Li+]
reactant | hydrochloric acid | 25 mL | Cl | ClH
reactant | methyl acetate | 500 mL | C(C)(=O)OC | C3H6O2
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 3-(4-carboxy-benzyl)-7-chloro-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester | 27.5 g | COC(=O)C=1N(C2=CC(=CC=C2C(C1CC1=CC=C(C=C1)C(=O)O)=O)Cl)C1=CC=CC=C1 | C25H18ClNO5
